US03985804
Preparation of 3'-iso-propoxy-2-methylbenzanilide
A 22.7 g 0.1 mol) portion of 3'-hydroxy-2-methylbenzanilide was dissolved in 100 ml of 1N-potassium hydroxide solution. To this solution 150 ml of ethanol was added and the mixture was stirred for one hour, which was followed by the addition of 12.3 g (0.1 mol) of isopropylbromide. After the addition of the iso-propylbromide, the reaction mixture was warmed and stirred under reflux for 4 hours. After distillation of most of the ethanol, the oily material remaining was extracted with benzene and the residue was distilled to obtain 20.9 g (77.9%) of a red, viscous oil having a boiling point of 186° C/0.08 mm Hg. The product was recrystallized from a mixture of benzene and n-hexane (1 : 1) as white prismatic crystals having a melting point of 92° C. IR cm-1 (KBr-tablet) νNH 3250(S), νCH 2980(S), νCO 1660 (S), 1610(S).

reactant | 3'-hydroxy-2-methylbenzanilide | OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C14H13NO2
reactant | ethanol | 150 ml | C(C)O | C2H6O
reactant | isopropylbromide | 0.1 mol, 12.3 g | C(C)(C)Br | C3H7Br
solvent | potassium hydroxide | [OH-].[K+]
product | 3'-iso-propoxy-2-methylbenzanilide | C(C)(C)OC=1C=C(NC(C2=C(C=CC=C2)C)=O)C=CC1 | C17H19NO2
